US09422240B2
Instead of 4-hydroxybenzaldehyde and 2-cyclopropylethanol, phenol (1.43 g) and methyl cis-4-hydroxycyclohexanecarboxylate (2.00 g) were respectively used and treated by the same technique as in Reference Example 11-1 to give methyl trans-4-phenoxycyclohexanecarboxylate as a colorless oil (1.33 g).

reactant | 4-hydroxybenzaldehyde | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | 2-cyclopropylethanol | C1(CC1)CCO | C5H10O
reactant | phenol | 1.43 g | C1(=CC=CC=C1)O | C6H6O
reactant | methyl cis-4-hydroxycyclohexanecarboxylate | 2.00 g | O[C@H]1CC[C@H](CC1)C(=O)OC | C8H14O3
product | methyl trans-4-phenoxycyclohexanecarboxylate | 1.33 g | O(C1=CC=CC=C1)[C@@H]1CC[C@H](CC1)C(=O)OC | C14H18O3
